US04605757
The test described in Example 1 was repeated using 300 g of p-fluorotoluene, 660 g of acetic acid, 132 g of water, 6 g of cobalt acetate tetrahydrate, 5 g of sodium bromide and 5 g of sodium acetate. In a reaction time of 240 minutes, after conventional work-up, 330.5 g of p-fluorobenzoic acid (86.6% of the theory) was obtained, with a purity of 99.9%.

reactant | p-fluorotoluene | 300 g | FC1=CC=C(C=C1)C | C7H7F
reactant | acetic acid | 660 g | C(C)(=O)O | C2H4O2
catalyst | cobalt acetate tetrahydrate | 6 g | O.O.O.O.C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
catalyst | sodium bromide | 5 g | [Br-].[Na+]
catalyst | sodium acetate | 5 g | C(C)(=O)[O-].[Na+]
solvent | water | 132 g | O | H2O
product | p-fluorobenzoic acid | 330.5 g | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
